US07977331B1
To a solution of 12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl chloride (100 mg, 0.26 mmol) in chloroform (2 ml) was added methyl (S)-2-amino-3-(4-hydroxyphenyl)propionate (154 mg, 0.78 mmol). The mixture was stirred at room temperature for 12 hr, 1N hydrochloric acid was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was successively washed with water and saturated brine and dried over anhydrous sodium sulfate. After filtration and concentration, diethyl ether was added to the obtained residue, and the precipitated solid was collected by filtration. The solid was washed with diethyl ether to give methyl (S)-2-[(12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-3-(4-hydroxyphenyl)propionate (102 mg, yield 82%).

reactant | 12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl chloride | 0.26 mmol, 100 mg | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4)C=C(C=C2)C(=O)Cl | C23H22ClNO2
reactant | methyl (S)-2-amino-3-(4-hydroxyphenyl)propionate | 0.78 mmol, 154 mg | N[C@H](C(=O)OC)CC1=CC=C(C=C1)O | C10H13NO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl (S)-2-[(12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-3-(4-hydroxyphenyl)propionate | 102 mg, yield 82% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4)C=C(C=C2)C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)O | C33H34N2O5
